US07115611B2
[rac]-(2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-acetic acid
A] The title compound was prepared in analogy to example 35, via [rac]-(2-methyl-4-{1 -[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-acetic acid ethyl ester, but using in step A] (4-hydroxy-2-methyl-phenoxy)-acetic acid ethyl ester (WO02092590) instead of 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester, as colorless, viscous oil.

reactant | [rac]-(2-methyl-4-{1 -[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)OC(CCC)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C28H30F3NO4
reactant | (4-hydroxy-2-methyl-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)O)C)=O | C11H14O4
product | [rac]-(2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-acetic acid | CC1=C(OCC(=O)O)C=CC(=C1)OC(CCC)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C26H26F3NO4
